US05639778
Step A: Indan-2-yl-propyl-amine (31, Chart D).
A tetrahydrofuran (150 mL) solution of 2-indanone (11.0 g, 92 mmol), propyl amine (12 mL, 146 mmol), sodium triacetoxy borohydride (35.0 g, 165 mmol), and acetic acid (5 mL) was stirred at ambient temperature for 1 hour. The solution was then heated at reflux temperature for 2 hours. After cooling, the solvent was evaporated and the residue taken up in concentrated hydrochloric acid (40 mL). The acidic solution was washed with diethyl ether and then basified (10M sodium hydroxide). Extraction of the aqueous layer with ether, drying over anhydrous sodium carbonate and removal of the solvent yielded 10.9 g of the title compound as a yellow oil (75%).:

reactant | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
reactant | 2-indanone | 92 mmol, 11.0 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | propyl amine | 146 mmol, 12 mL | C(CC)N | C3H9N
reactant | sodium triacetoxy borohydride | 165 mmol, 35.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | Indan-2-yl-propyl-amine | 10.9 g, 75% | C1C(CC2=CC=CC=C12)NCCC | C12H17N
